2117-12-29 09:56:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure, renal failure (acute?)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61M little know medical hx found by neighbors confused and lethargic in
   his home brought by ems to [**Hospital3 **] where he was found to be in
   septic shock with multiple lab abnormalities including:
   --  arf cr 1.4, coagulopathy inr 5, abnl LFTs, t bili 4.3, leukocytosis
   22 with profound bandemia, plts 40, hct 52, elevated lactate 5
   --  concern for gangrenous L foot
   Work-up there included:head CT (neg for acute process), non contrast
   torso CT-sm r effusion, sludge in GB, no obvious bowel ischemia,
   Had CVL placed, was given 3L IVF, started on levophed, given vanco and
   imipenem, remained tachy in aflutter with tachypnea (7.46/24/148).  Bl
   cx returned [**4-10**] + for GPC (staph). Transferred to [**Hospital1 5**] for management.
   Intubated at time of transfer.
   Overnight : remained tachy, in a flutter, hypotensive on pressors,
   a-line placed, pan cx sent, antibx changed to vanco/[**Last Name (un) **], volume
   resuscitated, SVO2 (79), dobutamine tried but became more hypotensive,
   Vascular surgery consulted
   --started hep drip, CTA recommended to assess perfusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2117-12-28**] 11:09 PM
   Meropenem - [**2117-12-29**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Heparin Sodium - [**2117-12-29**] 01:45 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-29**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 117 (109 - 121) bpm
   BP: 88/66(73) {81/60(66) - 106/79(87)} mmHg
   RR: 20 (20 - 25) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   CVP: 14 (10 - 21)mmHg
   Mixed Venous O2% Sat: 78 - 79
   Total In:
                                                                  3,417 mL
                                                                  3,780 mL
   PO:
   TF:
   IVF:
                                                                  3,417 mL
                                                                  3,700 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                    360 mL
   Urine:
                                                                     50 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,367 mL
                                                                  3,420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.39/30/160/18/-5
   Ve: 8.9 L/min
   PaO2 / FiO2: 400
   Physical Examination
   WD M, intubated and sedated
   Eyes / Conjunctiva: rx pupils, R > L
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular:  Distant), tachy
   Respiratory / Chest: (Breath Sounds: Clear : ) diminished at b
   Abd soft, decreased BS
   Skin:  scattered purpuric lesions abd and chest, large eschar over L
   foot dorsal surface, necrotic appearing toes, cool feet b, unable to
   palpate pedal pulses, significant  dependent and distal edema
   Neurologic: sedated, unresponsive
   Labs / Radiology
   15.1 g/dL
   46 K/uL
   304 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.2 mEq/L
   65 mg/dL
   112 mEq/L
   142 mEq/L
   48.5 %
   10.3 K/uL
        [image002.jpg]
                            [**2117-12-28**]  08:05 PM
                            [**2117-12-28**]  10:16 PM
                            [**2117-12-29**]  01:20 AM
                            [**2117-12-29**]  05:01 AM
                            [**2117-12-29**]  05:15 AM
   WBC
   14.8
   10.3
   Hct
   52.4
   48.5
   Plt
   55
   46
   Cr
   1.4
   1.3
   TropT
   0.08
   0.07
   TCO2
   18
   16
   19
   Glucose
   224
   304
   Other labs: PT / PTT / INR:23.0/150.0/2.2, CK / CKMB /
   Troponin-T:396/8/0.07, ALT / AST:31/110, Alk Phos / T Bili:235/7.3,
   Amylase / Lipase:34/23, Differential-Neuts:87.6 %, Band:0.0 %,
   Lymph:9.3 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:3.4 mmol/L, Albumin:2.6
   g/dL, LDH:404 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Imaging: cxr--et and RIJ in position, increased effusions/pulm edema
   since admit film, cardiomegally
   Microbiology: bl/urine cxs pending
   Assessment and Plan
   61M, little known of PMH, presents with shock and MODS.
   He has severe organ dysfunction and shock appears to be septic,
   hypovolemic and cardiogenic (elevated CVP).  He has staph bacteremia
   and potential sources of infection include skin/necrotic foot, osteo,
   less likely pna given cxr appearance and oxygenation, GB less likely
   given organism, urinary tract, no obvious joint inflammation.  Suspect
   the pt has longstanding untreated chronic medical conditions, T2DM,
   putting him at high risk. He is critically ill and prognosis for
   recovery is poor.
   # Shock---hypotension, leukocytosis, fevers, bandemia,
   seems most likely septic, with hypovolemic and cardiogenic component
   --Appears adequately fluid resus at this time based on CVP, SVO2
   --Continue Levophed , wean for MAP > 65, vigileo
   --Trend lactate
   --Cover broadly at this time for all potential  sources, though with
   staph bacteremia, high concern for skin/feet/possibly SBE.  ID consult.
   Surveillance cxs.  D/u OSH data.  Vascular following.  ? need for
   amputation or thrombectomy.
   --TTE to eval cardiac fx and to eval for SBE.
    # Respiratory Failure-
   -lungs sound clear, imaging now  c/w volume overload, oxygenating well
   with minimal peep/fio2
   -would continue vent support ACV/trial of PSV
   # [**Name (NI) 2385**]
unclear etiology, does not appear c/w TSS, nonblanching, does
   not appear embolic, would consult derm for input
   # ARF
baseline unclear, likely ATN and pre-renal,? Rhabdo, but CPK not
   that high
   --Adequate hydration with fluid bolus
   --Urine lytes, spin urine
   # Vascular
appears longstanding, poor perfusion, vascular surgery
   following
   --Hep gtt
   CTA to eval perfusion and possible need for thrombectomy or amputation
   # Coagulopathy/thrombocytopenia-Likely related to DIC, chronic liver
   ds, also in the setting of likely poor nutrition may well be -vitamin K
   deficiency
   -Vitamin K
   -Follow INR and platelets.
   # Hyperglycemia
suspect pt has untreated DM
   Hba1c,, ssi
if unable to control would start gtt
   # Atrial Flutter--No role for rate control at this time, unclear how
   much this rate (110-130) is driving his hypotension and inflammation
   and sepsis is driving factor
   -Consider cardioverrsion for refractory hypotension if develops rapid
   rate
   # Hepatic Failure-Concerning for chronic liver failure given albumin
   decrease, coagulopathy, thrombocytopenia
   --Trend labs, RUQ us.
   # Altered Mental Status-likely from profound infection, now difficult
   to assess given intubabtion/sedation
   --review OSH head CT
   # AG likely explained by lactic acidosis
   -Trend
   ICU Care
   Nutrition: NPO for now pending additional surgical eval, if no plan for
   embolectomy would start TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2117-12-28**] 08:39 PM
resite OSH line
   22 Gauge - [**2117-12-28**] 08:46 PM
   Arterial Line - [**2117-12-28**] 10:30 PM
   Prophylaxis:
   DVT:  hep gtt
   Stress ulcer:  H2B
   VAP: bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 80 minutes
   Patient is critically ill
   ------ Protected Section ------
   Attending addendum:
   I had a long phone discussion with [**Known firstname 82**]
s brother [**Name (NI) 10666**] and updated
   him regarding [**Known firstname 82**]
s condition.  He understands that [**Known firstname 82**] is critically
   ill with multiple organ dysfunction and that his prognosis is poor.  We
   discussed the concern that [**Known firstname 82**]
s feet are the likely source of his
   MRSA infection.  [**Last Name (un) 10666**] also spoke with vascular surgery earlier today
   about possible amputation.  The family feels strongly that [**Known firstname 82**] would
   not want to have his feet amputated.  They fully understand that he
   could die from ongoing infection.  We will continue aggressive medical
   management and not pursue amputation.  The family will be in tomorrow
   and I will meet with them again/.  If there is any change overnight
   they will be contact[**Name (NI) **].
   Additional critical care l time spent:  25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2117-12-29**] 08:02 PM ------

2117-12-30 06:54:00 Physician Resident Progress Note
Chief Complaint: Septic shock, cardiogenic shock
   24 Hour Events:
   Versed and fentanyl sedation decreased, but patient remains sedated
   Pressors not increased.  Urine output continues to be good.
   Nursing concerned over
[**Company 7600**]
 colored-fluid suctioned from OG
   tube.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-12-29**] 10:15 AM
   Vancomycin - [**2117-12-29**] 08:00 PM
   Cefipime - [**2117-12-30**] 03:49 AM
   Metronidazole - [**2117-12-30**] 04:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 750 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-12-29**] 11:42 PM
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain
   Flowsheet Data as of  [**2117-12-30**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.7
C (101.6
   HR: 122 (113 - 124) bpm
   BP: 106/80(88) {87/65(71) - 108/84(92)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 110 kg (admission): 95 kg
    CVP: 15 (13 - 20)mmHg
   Total In:
                                                                  6,436 mL
                                                                    600 mL
   PO:
   TF:
   IVF:
                                                                  6,296 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    390 mL
   Urine:
                                                                  1,290 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,146 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 468 (468 - 558) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.35/38/150/19/-3
   Ve: 9.1 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General: Ashen, not responsive to painful stimuli, occasionally bucks
   on vent
   Lungs:  Clear, breath sounds distant
   Cardiac: Rapid rate, aflutter
   Abdomen: Unchanged rash, non-tender, edematous
   Extremities: Necrotic lesions on L>R; no pus expressed, edematous
   Labs / Radiology
   36 K/uL
   16.1 g/dL
   119 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.2 mEq/L
   55 mg/dL
   113 mEq/L
   141 mEq/L
   50.2 %
   13.9 K/uL
        [image002.jpg]
                            [**2117-12-28**]  08:05 PM
                            [**2117-12-28**]  10:16 PM
                            [**2117-12-29**]  01:20 AM
                            [**2117-12-29**]  05:01 AM
                            [**2117-12-29**]  05:15 AM
                            [**2117-12-29**]  05:56 PM
                            [**2117-12-29**]  06:22 PM
                            [**2117-12-30**]  01:24 AM
                            [**2117-12-30**]  04:18 AM
   WBC
   14.8
   10.3
   11.9
   13.9
   Hct
   52.4
   48.5
   49.6
   50.2
   Plt
   55
   46
   36
   36
   Cr
   1.4
   1.3
   1.4
   1.2
   TropT
   0.08
   0.07
   TCO2
   18
   16
   19
   22
   22
   Glucose
   [**Telephone/Fax (3) 10669**]19
   Other labs: PT / PTT / INR:21.3/97.2/2.0, CK / CKMB /
   Troponin-T:376/8/0.07, ALT / AST:37/149, Alk Phos / T Bili:226/8.3,
   Amylase / Lipase:34/23, Differential-Neuts:91.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.0
   g/dL, LDH:477 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 HYPOTENSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERATION IN TISSUE PERFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   61 yo M with no known PMHx, presented to [**Hospital3 **] on [**2117-12-27**]
   via EMS after being found down, lethargic, and minimally responsive on
   floor of his home.  Now with septic and cardiogenic shock.
   #. SHOCK, SEPTIC AND CARDIOGENIC:  Patient appears to be fluid
   resuscitated at this point, with CVP of 15, and hourly urine output
   ranging from 40-100.  Still on Levophed support to maintain MAPs of
   60.  Septic shock from staph aureus bacteremia and cardiogenic shock
   (EF of 15%).  Still unclear source of bloodstream infection, though
   most likely portal of entry through feet.  We obtained OSH micro data
   (including MICs) overnight.
   - TEE to assess cardiac function today
   - Continue vanco/meropenem, today day 4 of antibiotics (including OSH)
   - Wean levophed as tolerated with a goal MAP>60
   - Continue to trend lactates (trending down to 1.9 this morning)
   - f/u cultures in house, repeat culture if spikes
   - obtain bacterial plates from OSH microbiology lab as per our ID team
   - daily CXR to monitor fluid overload
   - check vanco trough tomorrow to assess adequate dosing
   #. Elevated LFTs:
   Bilirubin up to 8.3 today with direct bili up to 6.7 from 0.6.  Other
   LFTs high but stable, with increasing LDH and AST.  Still concerning
   for cholestatic picture or shock liver (though would expect higher
   LFTs).  Ultrasound yesterday consistent with sludge and ascites.
   Hepatitis serologies negative.
   - Continue to trend bilirubin
   #. Respiratory failure:
   ABG stable with continued acidemia.  Patient is requiring relatively
   minimal vent settings and was likely intubated for stability on
   transfer.  He will need several studies today including TEE.
   - We will hold off on weaning until we have a better idea of mental
   status and procedures are over with.
   - Daily CXR
s while status changing.
   #. Coagulopathy/thrombocytopenia:
   Patient presented to [**Hospital3 **] with INR of 5 and platelets down
   to 69. Possible that this was indicative of DIC is setting of sepsis;
   however, INR quickly reversed, though it has not normalized.  Does not
   appear to have a consumptive process. Also possible that the changes
   reflect a more chronic process, such as chronic liver disease.  Coags
   continue to normalize today.
   - Follow coags and monitor for signs of bleeding
   #. Foot ulcers:
   Patient with unknown chronicity of his bilateral foot ulcers, though
   currently with weak femoral pulses bilaterally and incomplete pulses in
   his lower extremities.  Vascular surgery does not believe that foot
   ulcers are contributing to current septic picture.
   - Appreciate vascular recommendations (contact today is [**Name (NI) 472**]
   [**Name (NI) 10671**])
   - Vascular surgery recs.  If he has an acute clot, could require an
   embolectomy.
   - Wound care consult deferred care to vascular surgery
   # Hyperglycemia:  Hgb A1C of 11.  Glucose trending down to 130s with
   insulin sliding scale.
   - Insulin sliding scale for now
   - [**Month (only) 8**] require long-acting insulin
   #. [**Last Name (un) **]:
   Patient with unknown baseline Cr, though with Cr 1.4 on admission.  Cr.
   now trending down to 1.2 today with fluid resuscitation-  Most likely
   pre-renal azotemia
   - Continue to trend cr.
   - Spin urine for signs of intrinsic renal pathology
   #. Altered mental status:
   Patient was found down with unclear baseline status or cause of altered
   status.  Acuity raises likely infectious cause or ingestion.
   - urine/serum tox negative here; try to obtain toxicology results from
   OSH
   - attempt to wean sedation for better idea of mental status
   #. Atrial flutter:
   Has several reasons to have increased sympathetic drive here.  Will
   treat underlying issues first, tolerating a certain degree of
   tachycardia for now.  Less likely caused by ischemic as appears to have
   had a minor troponin leak.
   - Continue to monitor
   #. Skin rash:
   Unclear what the source is of the macules on his stomach.
   - Appreciate dermatology recommendations and biopsy
   - Follow-up wound cultures
   #. HIV status:  Unknown past medical history, now with life-threatening
   systemic infection
   - Await reply from [**First Name11 (Name Pattern1) 884**] [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] re: HIV testing in this intubated
   patient without HCP
   ICU [**Name (NI) 151**]
   Nutrition: NPO overnight for TEE today.  Consider starting tube feeds
   today.
   Glycemic Control:  Insulin sliding scale.  [**Month (only) 8**] need long-acting insulin
   Lines:
   Multi Lumen - [**2117-12-28**] 08:39 PM
   22 Gauge - [**2117-12-28**] 08:46 PM
   20 Gauge - [**2117-12-28**] 08:47 PM
   Arterial Line - [**2117-12-28**] 10:30 PM
   Prophylaxis:
   -DVT ppx with pneumoboots
   -Bowel regimen with colace, senna, miralax
   -Pain management with fentanyl, midaz
   Communication:  : [**First Name4 (NamePattern1) **] [**Known lastname 10652**] ([**Telephone/Fax (1) 10653**]), [**First Name8 (NamePattern2) 4074**] [**Last Name (NamePattern1) 67**]
   ([**Telephone/Fax (1) 10654**])
   Code status: FULL.  Will discuss with family later today.
   Disposition: ICU

2117-12-30 10:41:00 Physician Attending Progress Note
Chief Complaint: Shock (septic, cardiogenic), staph bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61M, little known of PMH, presents with shock and MODS.
   24 Hour Events:
 ULTRASOUND - At [**2117-12-29**] 10:00 AM
   gallbladder and liver
 TRANSTHORACIC ECHO - At [**2117-12-29**] 10:37 AM
 MULTI LUMEN - STOP [**2117-12-29**] 06:03 PM
 MULTI LUMEN - START [**2117-12-29**] 06:06 PM
 BLOOD CULTURED - At [**2117-12-30**] 04:14 AM
 BLOOD CULTURED - At [**2117-12-30**] 04:14 AM
 FEVER - 101.9
F - [**2117-12-29**] 12:00 PM
   slowly weaning levophed
   remains febrile
   remains tachy in aflutter
   sedation weaned
   derm--> skin bx from abd [**Year (4 digits) **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-12-29**] 10:15 AM
   Vancomycin - [**2117-12-29**] 08:00 PM
   Cefipime - [**2117-12-30**] 03:49 AM
   Metronidazole - [**2117-12-30**] 04:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 600 units/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-12-29**] 11:42 PM
   Other medications:
   per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-30**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 120 (113 - 123) bpm
   BP: 95/68(76) {87/65(71) - 108/84(92)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 110 kg (admission): 95 kg
   CVP: 14 (13 - 20)mmHg
   Total In:
                                                                  6,436 mL
                                                                    750 mL
   PO:
   TF:
   IVF:
                                                                  6,296 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  1,290 mL
                                                                    620 mL
   Urine:
                                                                  1,290 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,146 mL
                                                                    131 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 546 (468 - 558) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.35/38/150/19/-3
   Ve: 9.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   PERRL, sedated and intubated
   CTA ant with decreased b/b BS
   RR tachy, no audible m
   Soft, decreased BS, obese, unchanged echymotic, nonblanching [**Year (4 digits) **]
   Sig dependent and le edema
   Le cool distal to ankles, necrotic tissue on appears worse, extending
   further at ankle, wheeping and erythema at r
   Labs / Radiology
   16.1 g/dL
   36 K/uL
   119 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.2 mEq/L
   55 mg/dL
   113 mEq/L
   141 mEq/L
   50.2 %
   13.9 K/uL
        [image002.jpg]
                            [**2117-12-28**]  08:05 PM
                            [**2117-12-28**]  10:16 PM
                            [**2117-12-29**]  01:20 AM
                            [**2117-12-29**]  05:01 AM
                            [**2117-12-29**]  05:15 AM
                            [**2117-12-29**]  05:56 PM
                            [**2117-12-29**]  06:22 PM
                            [**2117-12-30**]  01:24 AM
                            [**2117-12-30**]  04:18 AM
   WBC
   14.8
   10.3
   11.9
   13.9
   Hct
   52.4
   48.5
   49.6
   50.2
   Plt
   55
   46
   36
   36
   Cr
   1.4
   1.3
   1.4
   1.2
   TropT
   0.08
   0.07
   TCO2
   18
   16
   19
   22
   22
   Glucose
   [**Telephone/Fax (3) 10669**]19
   Other labs: PT / PTT / INR:21.3/107.0/2.0, CK / CKMB /
   Troponin-T:376/8/0.07, ALT / AST:37/149, Alk Phos / T Bili:226/8.3,
   Amylase / Lipase:34/23, Differential-Neuts:91.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.0
   g/dL, LDH:477 IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr--effusions b.l, some improved aeration/hilar fullness, TTE
   ef 15%, no vegetations seen
   Microbiology: cxs here --> NGTD
   Assessment and Plan
   61M, little known of PMH, presents with shock and MODS.
   Shock appears to be primarily septic/ hypovolemic w/ possible
   cardiogenic component.  His EF on TTE is 15% likely from myocardial
   hibernation. He has staph bacteremia, most likely from his necrotic LE,
   though we continue to discuss alternative infectious etiologies and
   sources given continued fevers including SBE.  Suspect the pt has
   longstanding untreated chronic medical conditions, T2DM, putting him at
   high risk. He is critically ill and prognosis for recovery is poor
   though some parameters are improving slowly. After discussion with pts
   family, we will not pursue amputation as family feels that is not in
   line with pts wishes.
   Primary issues include:
   # Shock---
   --hypotension
   --Fevers
   --Leukocytosis
   -- primarily septic with staph bacteremia, likely from gangrenous feet
       Appears adequately fluid resus based on CVP and urine outpt,
   lactate level has normalized
       continue to wean Levophed for MAP > 65,
       continue broad antibx coverage with input from ID team, following
   cx data/surveillance cx
       TEE to eval for vegetation
       If fevers persist and TEE negative, consider paracentesis and
   possible IP [**Female First Name (un) **] to eval for empyema
   # Respiratory Failure-
   - imaging most c/w volume overload with sm R effusion, oxygenating well
   with minimal peep/fio2.
   --continue PSV at this time, would keep intubated pending TEE and
   improvement in MS as well as ongoing discussions with family regarding
   goals of care
   # [**Name (NI) 2385**]
unclear etiology, does not appear c/w TSS, nonblanching, does
   not appear embolic, derm input appreciated, await bx results
   # ARF--likely ATN and pre-renal
        Cr  improving and urine outpt is adequate
   # Vascular
appears longstanding
   --Unclear if he had embolic process though seems unlikely to be b/l
      No role for debridement and will not pursue amputations given family
   input
   --continue Hep gtt
   # Coagulopathy/thrombocytopenia-Likely related to DIC/sepsis/? poor
   nutrition
   -s/p Vitamin K
   -Follow dic labs, INR and platelets.
   # Hyperglycemia
appears to have untreated DM
   --Improved, continue ssi
   # Atrial Flutter--No role for rate control at this time, unclear how
   much this rate (110-130) is driving his hypotension and inflammation,
   fever, and pressors likely are driving factor
   -Consider cardioverrsion for refractory hypotension if develops more
   rapid rate
   # Hepatic Failure-
   -RUQ us did not demonstrate evidence of chronic liver abnl and hep
   seros neg,  suspect related to sepsis
   Trend
   # goals of care
continue to meet with family, update and address goals
   Remainder  as per resident note
   ICU Care
   Nutrition:  NPO for TEE, then would initiate TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2117-12-28**] 08:46 PM
   Arterial Line - [**2117-12-28**] 10:30 PM
   20 Gauge - [**2117-12-29**] 12:23 PM
   Multi Lumen - [**2117-12-29**] 06:06 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill
   Addendum
   Met with pt
s family.  Updated them to his condition and answered all
   questions.  Family is in full agreement that pt would not want  le
   amputations.  For now we continue with current level of aggressive
   care, noting some improvement in pressor requirements,  but family
   discussing potentially moving focus toward comfort, as quality of life
   and ability to be independent and  to walk is felt to be a priority for
   this pt.
   Discussed code status, and in setting of continued decline or cardiac
   arrest, pt is DNR.
   Time in meting: 30 min

2117-12-31 07:20:00 Physician Resident Progress Note
Chief Complaint: Septic shock, cardiogenic shock
   24 Hour Events:
   TEE showed no vegetations
   ID: confirmed that cultures from [**Hospital1 **] are [**Last Name (LF) 1684**], [**First Name3 (LF) **] changed from vanc
   to nafcillin.  Also recommending considering para and [**Female First Name (un) **] for cell
   counts, gram stain, Cx and chemistry
   -Family discussion: per family, patient would not want amputations
   (vascular surgery made aware).  Made patient DNR.  Will see how he does
   over next few days and reasses goals of care.
   -turned off sedation in PM and weaned PS to [**8-11**] -> patient became
   tachypneic and looked uncomfortable,  restarted sedation.
   -Tachy to 130/140s in flutter around 10pm.  Febrile so gave tylenol and
   5 iv metoprolol with good effect.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-12-29**] 10:15 AM
   Vancomycin - [**2117-12-30**] 09:00 AM
   Metronidazole - [**2117-12-31**] 04:11 AM
   Cefipime - [**2117-12-31**] 04:11 AM
   Nafcillin - [**2117-12-31**] 06:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2117-12-30**] 10:45 PM
   Midazolam (Versed) - [**2117-12-30**] 10:45 PM
   Heparin Sodium - [**2117-12-31**] 12:12 AM
   Famotidine (Pepcid) - [**2117-12-31**] 12:34 AM
   Metoprolol - [**2117-12-31**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-12-31**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 39.4
C (102.9
   HR: 102 (99 - 145) bpm
   BP: 72/56(61) {70/54(59) - 102/77(84)} mmHg
   RR: 22 (7 - 29) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 110 kg (admission): 95 kg
    CVP: 12 (12 - 16)mmHg
   Total In:
                                                                  2,108 mL
                                                                    713 mL
   PO:
   TF:
   IVF:
                                                                  1,898 mL
                                                                    713 mL
   Blood products:
   Total out:
                                                                  1,680 mL
                                                                    280 mL
   Urine:
                                                                  1,680 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    428 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 304 (304 - 569) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.36/38/136/21/-3
   Ve: 8.2 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   43 K/uL
   15.2 g/dL
   154 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   50 mg/dL
   110 mEq/L
   140 mEq/L
   47.6 %
   12.8 K/uL
        [image002.jpg]
                            [**2117-12-29**]  05:01 AM
                            [**2117-12-29**]  05:15 AM
                            [**2117-12-29**]  05:56 PM
                            [**2117-12-29**]  06:22 PM
                            [**2117-12-30**]  01:24 AM
                            [**2117-12-30**]  04:18 AM
                            [**2117-12-30**]  06:46 PM
                            [**2117-12-30**]  10:16 PM
                            [**2117-12-31**]  06:00 AM
                            [**2117-12-31**]  06:23 AM
   WBC
   10.3
   11.9
   13.9
   12.8
   Hct
   48.5
   49.6
   50.2
   47.6
   Plt
   46
   36
   36
   43
   Cr
   1.3
   1.4
   1.2
   1.5
   TropT
   0.07
   TCO2
   19
   22
   22
   22
   21
   22
   Glucose
   [**Telephone/Fax (3) 10680**]54
   Other labs: PT / PTT / INR:25.1/>150.0/2.4, CK / CKMB /
   Troponin-T:376/8/0.07, ALT / AST:42/179, Alk Phos / T Bili:189/9.8,
   Amylase / Lipase:34/23, Differential-Neuts:91.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.0
   g/dL, LDH:477 IU/L, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Assessment and Plan
 HYPOTENSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERATION IN TISSUE PERFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   61 yo M with no known PMHx, presented to [**Hospital3 **] on [**2117-12-27**]
   via EMS after being found down, lethargic, and minimally responsive on
   floor of his home.  Now with septic and cardiogenic shock.
   #. SHOCK, SEPTIC AND CARDIOGENIC:  Patient appears to be fluid
   resuscitated at this point, with CVP of 15, and hourly urine output
   ranging from 40-100.  Still on Levophed support to maintain MAPs of
   60.  Septic shock from staph aureus bacteremia and cardiogenic shock
   (EF of 15%).  Still unclear source of bloodstream infection, though
   most likely portal of entry through feet.  We obtained OSH micro data
   (including MICs) overnight.
   - Confirmed that staph is [**Year (4 digits) 1684**] so changed to nafcillin
   - TEE negative for vegetations
   - Continue nafcillin/meropenem/cefepime, today day 5 of antibiotics
   (including OSH)
   - Wean levophed as tolerated with a goal MAP>60
   - Continue to trend lactates, one pending for this morning
   - Serial blood cultures
   - daily CXR to monitor fluid overload
   - check vanco trough tomorrow to assess adequate dosing
   #. Tachycardia:
   Has several reasons to have increased sympathetic drive here.  Will
   treat underlying issues first, tolerating a certain degree of
   tachycardia for now.  Less likely caused by ischemic as appears to have
   had a minor troponin leak.
   - IV metoprolol for HR >130 as BP allows
   - Continue to monitor
   #. Elevated LFTs:
   Bilirubin up to 9.8 today with direct bili up to 7.8.  Other LFTs high
   but stable.  Still concerning for cholestatic picture or shock liver.
   Ultrasound yesterday consistent with sludge and ascites.  Hepatitis
   serologies negative.
   - Continue to trend bilirubin
   #. Respiratory failure:
   ABG stable with continued acidemia.  Consider weaning sedation today.
   - We will hold off on weaning until we have a better idea of mental
   status.
   - Daily CXR
s while status changing.
   #. Coagulopathy/thrombocytopenia:
   Patient presented to [**Hospital3 **] with INR of 5 and platelets down
   to 69.  INR here is slowly creeping up to 2.4 today with PT/PTT
   rising.  Does not appear to have a consumptive process. Also possible
   that the changes reflect a more chronic process, such as chronic liver
   disease.
   - Follow coags and monitor for signs of bleeding
   #. Foot ulcers:
   Patient with unknown chronicity of his bilateral foot ulcers, though
   currently with weak femoral pulses bilaterally and incomplete pulses in
   his lower extremities.  Vascular surgery does not believe that foot
   ulcers are contributing to current septic picture.
   - Appreciate vascular recommendations
   - Wound care consult deferred care to vascular surgery
   # Hyperglycemia:  Hgb A1C of 11.  Glucose trending down to 130s with
   insulin sliding scale.
   - Insulin sliding scale for now
   - [**Month (only) 8**] require long-acting insulin
   #. [**Last Name (un) **]:
   Patient with unknown baseline Cr, though with Cr 1.4 on admission.  Cr.
   now trending up to 1.5 today.  Most likely ATN from distributive shock
   and/or pre-renal azotemia.
   - Continue to trend cr.
   - Spin urine for signs of intrinsic renal pathology
   #. Altered mental status:
   Patient was found down with unclear baseline status or cause of altered
   status.  Acuity raises likely infectious cause or ingestion.
   - urine/serum tox negative here; try to obtain toxicology results from
   OSH
   - attempt to wean sedation for better idea of mental status
   #. Skin rash:
   Unclear what the source is of the macules on his stomach.
   - Appreciate dermatology recommendations and biopsy
   - Follow-up wound cultures
   #. HIV status:  Unknown past medical history, now with life-threatening
   systemic infection
   - Await reply from [**First Name11 (Name Pattern1) 884**] [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] re: HIV testing in this intubated
   patient without HCP
   ICU [**Name (NI) 151**]
   Nutrition: NPO overnight for TEE today.  Consider starting tube feeds
   today.
   Glycemic Control:  Insulin sliding scale.  [**Month (only) 8**] need long-acting insulin
   Lines:
   Multi Lumen - [**2117-12-28**] 08:39 PM
   22 Gauge - [**2117-12-28**] 08:46 PM
   20 Gauge - [**2117-12-28**] 08:47 PM
   Arterial Line - [**2117-12-28**] 10:30 PM
   Prophylaxis:
   -DVT ppx with pneumoboots
   -Bowel regimen with colace, senna, miralax
   -Pain management with fentanyl, midaz
   Communication:  : [**First Name4 (NamePattern1) **] [**Known lastname 10652**] ([**Telephone/Fax (1) 10653**]), [**First Name8 (NamePattern2) 4074**] [**Last Name (NamePattern1) 67**]
   ([**Telephone/Fax (1) 10654**])
   Code status: FULL.  Will discuss with family later today.
   Disposition: ICU

2118-01-01 07:25:00 Physician Resident Progress Note
Chief Complaint: Septic [** **], cardiogenic [** **]
   24 Hour Events:
   Overnight events:  Patient's status continues to deteriorate
   --Throughout the day yesterday, becoming more tachycardic and
   hypotensive
   --Team spoke with sister and brother-in-law.  They understand that
   patient might pass very soon.  They agree that we should not escalate
   care, but they agree with current treatments
   --BP's now in the 60s/50s with MAPs in the 50s.  Extremeties are cool
   and mottled.  Coloring pale.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2117-12-29**] 10:15 AM
   Vancomycin - [**2117-12-30**] 09:00 AM
   Cefipime - [**2117-12-31**] 04:19 PM
   Ciprofloxacin - [**2117-12-31**] 10:30 PM
   Metronidazole - [**2118-1-1**] 03:38 AM
   Nafcillin - [**2118-1-1**] 06:27 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.38 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2117-12-31**] 11:41 AM
   Fentanyl - [**2117-12-31**] 11:41 AM
   Metoprolol - [**2117-12-31**] 01:00 PM
   Famotidine (Pepcid) - [**2118-1-1**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-1-1**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.4
C (101.2
   HR: 100 (87 - 149) bpm
   BP: 66/52(57) {63/49(54) - 86/66(72)} mmHg
   RR: 11 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 110 kg (admission): 95 kg
    CVP: 13 (11 - 16)mmHg
   Total In:
                                                                  4,527 mL
                                                                    821 mL
   PO:
   TF:
   IVF:
                                                                  4,527 mL
                                                                    821 mL
   Blood products:
   Total out:
                                                                    323 mL
                                                                     18 mL
   Urine:
                                                                    323 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,204 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 410 (236 - 775) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 6.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   15.4 g/dL
   126 mg/dL
   2.8 mg/dL
   19 mEq/L
   4.9 mEq/L
   66 mg/dL
   111 mEq/L
   141 mEq/L
   51.2 %
   9.9 K/uL
        [image002.jpg]
                            [**2117-12-29**]  05:15 AM
                            [**2117-12-29**]  05:56 PM
                            [**2117-12-29**]  06:22 PM
                            [**2117-12-30**]  01:24 AM
                            [**2117-12-30**]  04:18 AM
                            [**2117-12-30**]  06:46 PM
                            [**2117-12-30**]  10:16 PM
                            [**2117-12-31**]  06:00 AM
                            [**2117-12-31**]  06:23 AM
                            [**2118-1-1**]  03:47 AM
   WBC
   11.9
   13.9
   12.8
   9.9
   Hct
   49.6
   50.2
   47.6
   51.2
   Plt
   36
   36
   43
   78
   Cr
   1.4
   1.2
   1.5
   2.8
   TCO2
   19
   22
   22
   22
   21
   22
   Glucose
   174
   119
   154
   126
   Other labs: PT / PTT / INR:22.7/44.3/2.1, CK / CKMB /
   Troponin-T:376/8/0.07, ALT / AST:35/107, Alk Phos / T Bili:160/10.6,
   Amylase / Lipase:34/23, Differential-Neuts:89.0 %, Band:1.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:1.8
   g/dL, LDH:367 IU/L, Ca++:7.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Microbiology: [**2117-12-29**] 6:17 pm CATHETER TIP-IV      Source: right IJ.
    WOUND CULTURE (Preliminary):    No significant growth.
   [**2117-12-28**] 8:50 pm URINE      Source: Catheter.  **FINAL REPORT
   [**2117-12-30**]**
   URINE CULTURE (Final [**2117-12-30**]):    NO GROWTH.
   All blood cultures pending.
 HYPOTENSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERATION IN TISSUE PERFUSION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ATRIAL FLUTTER (AFLUTTER)
   61 yo M with no known PMHx, presented to [**Hospital3 **] on [**2117-12-27**]
   via EMS after being found down, lethargic, and minimally responsive on
   floor of his home.  Now with septic and cardiogenic [**Year (4 digits) **].
   #. [**Year (4 digits) **], SEPTIC AND CARDIOGENIC:  Patient appears to be fluid
   resuscitated at this point, with CVP of 13, however, urine output and
   BP continue to decline.  Patient has been maintained on leveophed to
   maintain acceptable MAPs.  Septic [**Year (4 digits) **] from MSSA bacteremia and
   cardiogenic [**Year (4 digits) **] (EF of 15%).  Still unclear source of bloodstream
   infection, though most likely portal of entry through feet.
   - Continue nafcillin/cefepime/flagyl
   - Continue levophed as tolerated with a goal MAP>60
   - Continue to trend lactates
   - Serial blood cultures
   - Daily CXR to monitor fluid overload
   - Appreciate ID recommendations
   #. Tachycardia, aflutter:
   Has severeal reasons for increased sympathetic drive, and HR increasing
   to maintain cardiac output.
   - Metoprolol 5mg IV for HR>130 as BP allows
   - Can consider amiodarone to slow HR if BP doesn
t tolearte metoprolol
   - Continue to monitor
   #. ARF:
   Patient with unknown baseline Cr, though with Cr 1.4 on admission.  Cr.
   now trending up to 2.8 today.  Most likely ATN from distributive [**Year (4 digits) **].
   - Continue to monitor urine output.
   - Continue to trend cr.
   #. Elevated LFTs:
   Bilirubin up to 10.6 today with other LFTs increasing as well.
   Concerning for continuing liver damage, and signaling that liver may be
shutting down.
  Root of this problem is [**Name2 (NI) **], as described above.
   - Continue to trend bilirubin
   #. Respiratory failure:
   ABG stable with continued acidemia.  Will hold off extubation until
   patient is more stable.
   #. Coagulopathy/thrombocytopenia:
   Patient presented to [**Hospital3 **] with INR of 5 and platelets down
   to 69.  INR here is down to 2.1 today with PT/PTT rising.  Does not
   appear to have a consumptive process. Also possible that the changes
   reflect a more chronic process, such as chronic liver disease.
   - Follow coags and monitor for signs of bleeding
   - D/C heparin drip
   #. Foot ulcers:
   Patient with unknown chronicity of his bilateral foot ulcers, though
   currently with weak femoral pulses bilaterally and incomplete pulses in
   his lower extremities.  Vascular surgery does not believe that foot
   ulcers are contributing to current septic picture.
   - Appreciate vascular recommendations
   - Wound care consult deferred care to vascular surgery
   - D/C heparin drip, as unlikely to make a difference in overall outcome
   (originally for concern over embolic event in feet) and patient is
   coagulopathic
   # Hyperglycemia:  Hgb A1C of 11.  Glucose trending down to 130s with
   insulin sliding scale.
   - Insulin sliding scale for now, and will hold off on long-acting
   insulin
   #. Altered mental status:
   Patient was found down with unclear baseline status or cause of altered
   status.  Acuity raises likely infectious cause or ingestion.  Unable to
   assess now given sedation.
   #. Skin rash:  Unclear etiology.
   - Appreciate dermatology recommendations and biopsy
   - Follow-up wound cultures
   #. HIV status:  Unknown past medical history, now with life-threatening
   systemic infection
   - Await reply from [**First Name11 (Name Pattern1) 884**] [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] re: HIV testing in this intubated
   patient without HCP
   # Code Status:  Patient is DNR.  Family is aware of grim prognosis and
   agree with not escalating care.  They will come in to see patient and
   talk later today.
   ICU Care
   Nutrition: NPO overnight for TEE today.  Consider starting tube feeds
   today after discussion with family re: GOC.
   Glycemic Control:  Insulin sliding scale.  [**Month (only) 8**] need long-acting insulin
   Lines:
   Multi Lumen - [**2117-12-28**] 08:39 PM
   22 Gauge - [**2117-12-28**] 08:46 PM
   20 Gauge - [**2117-12-28**] 08:47 PM
   Arterial Line - [**2117-12-28**] 10:30 PM
   Prophylaxis:
   -DVT ppx with subcu heparin
   -Bowel regimen with colace, senna, miralax
   -Pain management with fentanyl, midaz
   Communication:  : [**First Name4 (NamePattern1) **] [**Known lastname 10652**] ([**Telephone/Fax (1) 10653**]), [**First Name8 (NamePattern2) 4074**] [**Last Name (NamePattern1) 67**]
   ([**Telephone/Fax (1) 10654**])
   Code status: DNR
   Disposition: ICU